US04521607
By a procedure similar to that described in Reference Example 81, 2-indanone and L-alanine methyl ester hydrochloride give N-(2-indanyl)-L-alanine methyl ester hydrochloride. Melting point: 215° C.

reactant | 2-indanone | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | L-alanine methyl ester hydrochloride | Cl.COC([C@@H](N)C)=O
product | N-(2-indanyl)-L-alanine methyl ester hydrochloride | Cl.COC([C@@H](NC1CC2=CC=CC=C2C1)C)=O | InChI=1S/C13H17NO2.ClH/c1-9(13(15)16-2)14-12-7-10-5-3-4-6-11(10)8-12;/h3-6,9,12,14H,7-8H2,1-2H3;1H/t9-;/m0./s1
